US06403589B1
A mixture of 1-[4-(4-fluorophenyl)-4-(3-pyridinyl)butyl]-2-piperazinecarboxamide (6.75 g), 2-chloro-N-(2,6-dichlorophenyl)acetamide (5.24 g), sodium carbonate (3.16 g) and DMF (143 ml) was stirred for 4 hours at 70° C. The reaction mixture was evaporated and water was added to the residue. After extraction with DCM, the combined organic layers were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel (eluent:CHCl3/CH3OH 95/5). The desired fractions were collected and the solvent was evaporated. The residue was dissolved in 2-propanol and DIPE and converted into the hydrochloride salt. The salt was filtered off and dried, yielding 2.23 g of 3-(amino-carbonyl)-N-(2,6-dichloro-phenyl)-4-[4-(4-fluorophenyl)-4-(3-pyridinyl)-butyl]-1-piperazineacetamide dihydrochloride.monohydrate (compound 14, mp. 226.3° C.).

reactant | 1-[4-(4-fluorophenyl)-4-(3-pyridinyl)butyl]-2-piperazinecarboxamide | 6.75 g | FC1=CC=C(C=C1)C(CCCN1C(CNCC1)C(=O)N)C=1C=NC=CC1 | C20H25FN4O
reactant | 2-chloro-N-(2,6-dichlorophenyl)acetamide | 5.24 g | ClCC(=O)NC1=C(C=CC=C1Cl)Cl | C8H6Cl3NO
reactant | sodium carbonate | 3.16 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 143 ml | CN(C)C=O | C3H7NO
product | 3-(amino-carbonyl)-N-(2,6-dichloro-phenyl)-4-[4-(4-fluorophenyl)-4-(3-pyridinyl)-butyl]-1-piperazineacetamide dihydrochloride | 2.23 g | Cl.Cl.NC(=O)C1CN(CCN1CCCC(C=1C=NC=CC1)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=CC=C1Cl)Cl | InChI=1S/C28H30Cl2FN5O2.2ClH/c29-23-6-1-7-24(30)27(23)34-26(37)18-35-14-15-36(25(17-35)28(32)38)13-3-5-22(20-4-2-12-33-16-20)19-8-10-21(31)11-9-19;;/h1-2,4,6-12,16,22,25H,3,5,13-15,17-18H2,(H2,32,38)(H,34,37);2*1H
